US08604062B2
N-(4-Fluoro-phenyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
To a solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) in DMF (2 mL) were added 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (114 mg, 0.35 mmol), N,N-diisopropyl ethyl amine (275 μL, 1.6 mmol) and 4-fluoroaniline (1 M in DMF, 0.35 mmol). The resulting reaction mixture was stirred overnight at room temperature. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (109 mg, 84%) which was obtained as a white solid. MS: m/e=404.4 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.35 mmol, 114 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropyl ethyl amine | 1.6 mmol, 275 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-fluoroaniline | 0.35 mmol, 1 M | FC1=CC=C(N)C=C1 | C6H6FN
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(4-Fluoro-phenyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 109 mg, 84% | FC1=CC=C(C=C1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C23H18FN3O3
